US07144899B2
Step B: N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide
To a stirred solution of 2-bromo-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]acetamide (206 mg, 0.62 mmol) in CH2Cl2 (2.5 mL) at room temperature was added cyclopropylamine (500 μL, 7.22 mmol). The resulting yellow solution was stirred under N2 atmosphere for 1 h. The solvent was removed in vacuo and the residue was purified by silica gel chromatography (gradient elution with EtOAc then with 10% MeOH-EtOAc) to afford the title compound as a yellow solid after drying in vacuo. 1H NMR (400 MHz, CDCl3): δ 8.97 (s, 1 H), 7.62–7.58 (m, 2 H), 7.46 (dd, J=1.8, 8.6 Hz, 1 H), 7.29–7.27 (m, 1 H), 4.24 (d, J=6.4 Hz, 2 H), 3.37 (s, 2 H), 2.23–2.18 (m, 1 H), 1.63 (br m, 1 H), 0.49–0.40 (m, 2 H), 0.37–0.36 (m, 2 H).

reactant | 2-bromo-N-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]acetamide | 0.62 mmol, 206 mg | BrCC(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1 | C10H9BrClN5O
reactant | cyclopropylamine | 7.22 mmol, 500 μL | C1(CC1)N | C3H7N
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide | ClC=1C=CC(=C(CNC(CNC2CC2)=O)C1)N1N=NN=C1 | C13H15ClN6O
